US04167638
A mixture of 10.5 g (0.04 mole) of crude 2-acetamido-6-methoxy-8-nitroquinoline, 14 g of iron filings, 2 ml of glacial acetic acid, and 120 ml of water was stirred on the steam bath for 18 hr. The mixture was filtered and the solid residue was washed thoroughly with acetone. The acetone washings were concentrated and the residue was eluted through a short silica gel column with methylene chloride to give 7.3 g (78%) of 2-acetamido-8-amino-6-methoxyquinoline. A sample recrystallized from 95% ethanol melted at 192°-194°.

reactant | 2-acetamido-6-methoxy-8-nitroquinoline | 0.04 mole, 10.5 g | C(C)(=O)NC1=NC2=C(C=C(C=C2C=C1)OC)[N+](=O)[O-] | C12H11N3O4
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 14 g | [Fe] | Fe
solvent | water | 120 ml | O | H2O
product | 2-acetamido-8-amino-6-methoxyquinoline | 7.3 g, 78% | C(C)(=O)NC1=NC2=C(C=C(C=C2C=C1)OC)N | C12H13N3O2
